US08729082B2
Step E: Preparation of 1-bromo-4-chloro-7,8-dimethyl-imidazo[1,2-a]quinoxaline
To a stirred suspension of 4-chloro-7,8-dimethyl-imidazo[1,2-a]quinoxaline (32.2 g, 0.148 mot) in THF/NMP 2:1 (312 mL) was added NBS (26.3 g, 0.148 mot) in one portion at room temperature. After stirred for 18 h, additional NBS (13.1 g, 0.074 mot) was added and the mixture was stirred for additional 2 h at room temperature. After removal of the THF portion of the organic phase by vacuum evaporation, water was added (520 mL). The precipitate was filtered and the residue was washed with water, diethyl ether and dried to give 35 g of the title compound. 1H-NMR (300 MHz, d6-DMSO): δ=8.54 (1H, s), 7.75 (1H, s), 7.40 (1H, s), 2.20 (6H, s) ppm.

reactant | 4-chloro-7,8-dimethyl-imidazo[1,2-a]quinoxaline | 32.2 g | ClC=1C=2N(C3=CC(=C(C=C3N1)C)C)C=CN2 | C12H10ClN3
reactant | NBS | 26.3 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NBS | 13.1 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF NMP | 312 mL | C1CCOC1.CN1CCCC1=O
product | 1-bromo-4-chloro-7,8-dimethyl-imidazo[1,2-a]quinoxaline | 35 g | BrC1=CN=C2N1C1=CC(=C(C=C1N=C2Cl)C)C | C12H9BrClN3
